US07906540B2
Introduction of the 4-methyl-2,4-dihydro-[1,2,4]triazol-3-one moiety is accomplished by O-alkylation of A-5 with 3-iodomethyl-5-methanesulfonyl-4-methyl-4H-[1,2,4]triazole which is prepared as depicted in SCHEME B. Condensation of ethyl hydroxy acetate and 4-methyl-3-thiosemicarbazide afforded 5-ethyl-4-methyl-2,4-dihydro-[1,2,4]triazole-3-thione (B-3) which is S-alkylated (step 2), converted to the chloromethyl compound (step 3), oxidized to the sulfone (step 4) and converted to the desired iodomethyl compound B-5b via a Finkelstein reaction (step 5).

reactant | 4-methyl-2,4-dihydro-[1,2,4]triazol-3-one | CN1C(NN=C1)=O | C3H5N3O
reactant | 3-iodomethyl-5-methanesulfonyl-4-methyl-4H-[1,2,4]triazole | ICC1=NN=C(N1C)S(=O)(=O)C | C5H8IN3O2S
reactant | 4-methyl-3-thiosemicarbazide | CNC(NN)=S | C2H7N3S
product | 5-ethyl-4-methyl-2,4-dihydro-[1,2,4]triazole-3-thione | C(C)C=1N(C(NN1)=S)C | C5H9N3S
